US06329536B1
Under N2, 1,1′-Carbonyldiimidazole (294 g, 1.82 mol) and THF (1000 mL) was slowly added to 3,3-dimethylhexanoic acid (238 g, 1.65 mol in 200 mL of THF), to a 2 L 3-necked flask. After the addition was completed, the solution was stirred at ambient temperature for 3 hours. Ethyl malonate potassium salt (281 g, 1.65 mol), THF (1500 mL) and magnesium chloride (157 g, 1.65 mol) were added under N2 to a flask equipped with an over-head stirrer. The mixture was stirred at 50° C. for 3 hours. It was then cooled down to room temperature and above acid imidazolide solution was added. The resultant slurry was stirred for 18 hours. H3PO4 (30%, 1.5 L) was added and the mixture was stirred for 1 hour. The aqueous layer was separated and extracted with MTBE (3×700 mL). The combined organic layer was washed with K2CO3 (25%, 2×500 mL) and brine (1000 mL) and dried over magnesium sulfate (˜40 g). The drying reagent was filtered and solvent was removed to give 250 g of ethyl 5,5-dimethyl-3-oxo-octanoate (yield 71%).

reactant | 1,1′-Carbonyldiimidazole | 1.82 mol, 294 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,3-dimethylhexanoic acid | 1.65 mol, 200 mL, 238 g | CC(CC(=O)O)(CCC)C | C8H16O2
reactant | Ethyl malonate potassium salt | 1.65 mol, 281 g | [K+].C(CC(=O)[O-])(=O)OCC
reactant | magnesium chloride | 1.65 mol, 157 g | [Cl-].[Mg+2].[Cl-]
reactant | imidazolide | [N-]1C=NC=C1
reactant | H3PO4 | 1.5 L | OP(=O)(O)O | H3O4P
solvent | THF | 1500 mL | C1CCOC1 | C4H8O
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | ethyl 5,5-dimethyl-3-oxo-octanoate | 250 g, yield 71% | CC(CC(CC(=O)OCC)=O)(CCC)C | C12H22O3
